US04130562
Starting from 4-ethyl-2-thiono-4-oxazoline and N-ethylthiophthalimide there is obtained (4-ethyl-2-oxazolyl)ethyl-disulphide. nD20 = 1.5549. IR (liq.): bands inter alia at 3000, 2970, 1590, 1485, 1250, 1135, 1080, 950, 760 cm-1.

reactant | 4-ethyl-2-thiono-4-oxazoline | C(C)C=1NC(OC1)=S | C5H7NOS
reactant | N-ethylthiophthalimide | C(C)N1C(C=2C(C1=O)=CC=CC2)=S | C10H9NOS
product | (4-ethyl-2-oxazolyl)ethyl-disulphide | C(C)C=1N=C(OC1)SSCC | C7H11NOS2
